2198-09-18 07:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2198-9-17**] 01:00 PM
 FEVER - 102.9
F - [**2198-9-17**] 12:00 PM
   O2 sats went down to 88 on 50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-9-17**] 01:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-9-17**] 11:47 PM
   Voriconazole - [**2198-9-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2198-9-17**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2198-9-17**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-9-18**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.2
C (99
   HR: 96 (91 - 122) bpm
   BP: 115/71(79) {110/56(70) - 131/79(92)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,953 mL
                                                                    177 mL
   PO:
                                                                    680 mL
             TF:
   IVF:
                                                                  1,273 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,550 mL
   Urine:
                                                                  2,300 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -347 mL
                                                                 -1,373 mL
   Respiratory support
   O2 Delivery Device: Venti mask
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender:
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: Erythematous [**Last Name (un) 996**] unchanged from yesterday
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   213 K/uL
   10.9 g/dL
   94 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   8 mg/dL
   100 mEq/L
   136 mEq/L
   30.5 %
   5.5 K/uL
        [image002.jpg]
                             [**2198-9-17**]  12:10 PM
                             [**2198-9-18**]  04:42 AM
   WBC
   5.5
   Hct
   30.5
   Plt
   213
   Cr
   0.8
   TropT
   <0.01
   Glucose
   94
   Other labs: PT / PTT / INR:14.6/34.8/1.3, CK / CKMB /
   Troponin-T:121/3/<0.01, ALT / AST:105/68, Alk Phos / T Bili:111/0.6,
   Differential-Neuts:76.5 %, Lymph:15.9 %, Mono:5.6 %, Eos:1.8 %,
   Albumin:2.9 g/dL, LDH:439 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   Assessment/Plan: Pt. is a 32 year old painter w/PMH of unspecified
   childhood rheumatological diseases who presents with 10 day hx of
   fevers to 102.5, chills, nausea, vomiting, and a frontal headache, all
   of possibly infectious, possibly rheumatologic etiology.
   .
   ## Fevers, lymphadenopathy: Possible sources of his fevers are
   infectious. He had an LP which was negative for meningitis. CSF
   cultures were negative. CXR does have b/l bibasilar opacities and
   patient is hypoxic with a dry cough. No tonisillar process. No
   abdominal pain or diarrhea. UA negative. Blood cultures ngtd. No e/o
   active joint infection- has full range of motion with no pain. Patient
   has had negative babesia, anaplasma and lyme tests at osh. Viral (EBV,
   CMV, hepatitis) or tick borne illness is still a possibility. Given he
   lives in MV and has fever, LAD, HSM, rash, etc we must also entertain
   the possibility of tularemia. Another thought is a rheumatologic
   process such as Adult Stills disease given his fever, arthralgias,
   macular rash, lymphadenopathy, spleenomegaly, elevated lfts. [**Doctor First Name **]
   pending. Rh factor normal at 9. It is difficult to make this diagnosis
   in the context of ? infectious etiology, however.
   - obtain blood cultures
   - f/u EBV and hepatitis serologies
   - f/u dengue and brucella serologies already pending
   - add on hep a serology
   - check tularemia serologies
   - check rmsf serologies
   - consider sending another smear for parasites and lyme titers as can
   be initially negative
   - consider ID consult ? empiric tularemia tx with streptomycin
   - F/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]
   -consider rheum consult
   -obtain derm consult for bx
   .
   # Transaminitis- Patient has elevated liver enzymes. This could be due
   to viral process including hepatitis, hiv, ebv. Could also be tick
   borne disease although babesia and erlichia were negative. No new
   medications and pt was only on trazadone which is not known to cause
   any LFT abnormalities. TSH was normal.
   -Obtain abdominal u/s to assess liver
   -trend lfts
   -add on hep a serology
   -f/u hep b and c as well as HIV and EBV
   .
   # Hypoxia: Patient has b/l basilar opacities on cxr which could
   represent pna. No e/o active ischemia. CTA negative for PE. Appears
   volume depleted on exam. BNP is elevated and patient has elevated JVP.
   -f/u echo
   -supplemental oxygen
   -treat empirically for pna with vanc and zosyn as developed infiltrates
   in hospital
   -obtain sputum cx induced, consider bronch
   -f/u urine legionella
   .
   # Headache: CT head negative, LP negative. Unlikely to be post-LP
   headache given time frame and he had it prior to the LP. Likely due to
   fever, dehydration.
   - ibuprofen prn
   .
   # Nausea/vomiting: CT head negative for intracranial process. No abd
   pain, diarrhea. Patient is constipated which could be contributing.
   -cont compazine
   -bowel regimen
   .
   # Heartburn: EKG with TWI in v1, 2. 2 sets normal ces. This does not
   sound cardiac in nature. Symptoms sound more consistent with GERD or
   reflux. This could be due to doxycycline and or ibuprofen.
   -famotidine
   -complete romi
   -ekg
   .
   # Sinus Tacchycardia: Patient appears volume overloaded with elevated
   JVP but he is likely intravascularly deplete given fevers and poor po
   intake. Per floor team, patient was minimally responsive to IV boluses
   and HR dropped to low 100s after 2 liters last night. TSH normal and no
   PE on exam.
   - cont to monitor
   - hold off on IVF for now and f/u on echo
   .
   # Normocytic Anemia: no evidence of active bleeding.
   -check iron studies, b12, folate
   -guaic stools
   -look at peripheral smear
   .
   # Thrombocytopenia: Patient's plts are 189 today. On admission to [**Hospital **]
   hospital they were 225 and trended down to low 100s. Plts trending up.
   -monitor plts
   -check peripheral smear r/o schistos
   -check fibrinogen although DIC unlikely
   .
   # FEN: HD stable but tacchycardic, replete lytes prn, regular diet
   .
   # PPx: famodtidine, Bowel regimen, HSC
   .
   # Access: PIV
   .
   # Code: Full
   .
   # Emergency Contact: [**Name (NI) 962**] (Brother) [**Numeric Identifier 963**]
   .
   # Dispo: ICU level of care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-9-17**] 09:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2198-09-18 09:15:00 Physician Attending Progress Note
Chief Complaint: Hypoxia
   Fever/Rash
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2198-9-17**] 01:00 PM
 FEVER - 102.9
F - [**2198-9-17**] 12:00 PM
   Patient with persistent and recurrent fevers overnight.
   Patient with persistent hypoxemia and inability to wean O2 support.
   ID/Derm and Rheumatology consulted for aid in evaluation
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-9-17**] 01:43 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-9-17**] 11:47 PM
   Voriconazole - [**2198-9-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2198-9-17**] 11:00 AM
   Heparin Sodium (Prophylaxis) - [**2198-9-17**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Respiratory: Dyspnea
   Integumentary (skin): Rash
   Flowsheet Data as of  [**2198-9-18**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.9
C (100.2
   HR: 106 (91 - 122) bpm
   BP: 127/85(95) {110/56(70) - 131/85(95)} mmHg
   RR: 17 (15 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,953 mL
                                                                    380 mL
   PO:
                                                                    680 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,273 mL
                                                                    180 mL
   Blood products:
   Total out:
                                                                  2,300 mL
                                                                  1,550 mL
   Urine:
                                                                  2,300 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -347 mL
                                                                 -1,170 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )  he does have crackles in RLL and LLL and
   although there is some dullness to percussion the volume of effusion
   does seem to be quite limited.
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Rash: Rash with dynamic changes across yesterday and with
   decrease and return in same location.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   213 K/uL
   94 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.8 mEq/L
   8 mg/dL
   100 mEq/L
   136 mEq/L
   30.5 %
   5.5 K/uL
        [image002.jpg]
                             [**2198-9-17**]  12:10 PM
                             [**2198-9-18**]  04:42 AM
   WBC
   5.5
   Hct
   30.5
   Plt
   213
   Cr
   0.8
   TropT
   <0.01
   Glucose
   94
   Other labs: PT / PTT / INR:14.6/34.8/1.3, CK / CKMB /
   Troponin-T:121/3/<0.01, ALT / AST:105/68, Alk Phos / T Bili:111/0.6,
   Differential-Neuts:76.5 %, Lymph:15.9 %, Mono:5.6 %, Eos:1.8 %,
   Albumin:2.9 g/dL, LDH:439 IU/L, Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:3.7
   mg/dL
   Imaging: CXR-Significant bilateral opacities with a suggestion of
   bilateral effusions but may be small and with likely persistent
   consolidations.
   Assessment and Plan
   32 yo male admit with fever, malaise, rash and unclear primary source.
   ICU admission was triggered by worsening hypoxia in the setting of
   evolving pulmonary infiltrates.  His rash did start in extremities and
   has moved proximally with prominent components of erythema, warmth and
   burning sensation but minimal pruritis.  His hypoxia was associated
   with significant and bilateral consolidations.
   1)Hypoxia-Certainly the physiology is likely related to functional
   shunt through basilar consolidations.  However, the source of these
   consolidations remains unclear.  On CXR he has evolved significant and
   bilateral effusions which do appear to be increased from yesterday to
   today.
   -Will evaluate pleural fluid with ultrasound to consider possible tap
   for additional diagnositic sampling but based on exam they may be small
   in size.
   -Will follow up with CT final read
   -Will Rx for possible bacterial PNA
   -Bronchoscopy for sampling has been considered but with signifciant
   hypoxemia would require intubation and would be sampling primary for
   infectious insults where are being treated and will defer at the
   moment.
   2)Fever/Rash-Still under evaluation and skin biopsy and blood testing
   with results pending.  It is waxing and [**Doctor Last Name 226**] erythematous rash with
   some splenomegaly noted and adenopathy.  Widespread insult from viral
   infection is possible but this is atypical, alternative diagnoses
   by Tularemia in our minds are being treated.  Allergic reaction may
   well be similar in presentation but offending [**Doctor Last Name **] is simply not
   seen.  SLE, Rheumatoid Disease, vasculitis (medium vessel disease) can
   present with diffuse involvement but complement normal and pulmonary
   presentation would be atypical.
   -Doxycycline--possible Tick Born illness
   -Vanco/Zosyn--Posible
   -Streptomycin--Possible Tularemia
   -Will have to consider further diagnoses in consultation with Derm,
   [**Last Name (un) 1001**], ID services providing support in consideration of differential
   diagnoses
   ICU Care
   Nutrition: PO diet to continue
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-9-17**] 09:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2198-09-19 07:10:00 Physician Resident Progress Note
Chief Complaint: Fever, rash, malaise
   24 Hour Events:
 BLOOD CULTURED - At [**2198-9-19**] 12:30 AM
   temp - 102.4
 SPUTUM CULTURE - At [**2198-9-19**] 12:30 AM
 FEVER - 102.4
F - [**2198-9-19**] 12:00 AM
 CALLED OUT
   - USG of thorax did not show enough fluid for thoracentesis
   - Patient with adequate UOP
   - No changes in [**Hospital3 **] labs
   - derm biopsy pending, but preliminary with granulamatous involvement
   deposited around dermis and nerves, non-specific (not simple urticaria
   or drug rash), still need more stains
   - febrile overnight, cultured
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2198-9-18**] 12:00 AM
   Vancomycin - [**2198-9-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-9-19**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2198-9-18**] 01:54 PM
   Heparin Sodium (Prophylaxis) - [**2198-9-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-9-19**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.9
C (98.5
   HR: 82 (81 - 107) bpm
   BP: 122/72(83) {108/40(62) - 128/85(95)} mmHg
   RR: 19 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,096 mL
                                                                    235 mL
   PO:
                                                                  2,240 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    856 mL
                                                                    135 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    500 mL
   Urine:
                                                                  2,575 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    521 mL
                                                                   -265 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), JVD not
   visible
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Rash: Unchanged erythematous plaques in legs, and back.
   Erythema in arms and chest. Non-painful, non-blanching.
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   246 K/uL
   10.7 g/dL
   128 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   8 mg/dL
   101 mEq/L
   138 mEq/L
   29.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2198-9-17**]  12:10 PM
                             [**2198-9-18**]  04:42 AM
                             [**2198-9-19**]  12:33 AM
   WBC
   5.5
   5.1
   Hct
   30.5
   29.7
   Plt
   213
   246
   Cr
   0.8
   0.8
   TropT
   <0.01
   Glucose
   94
   128
   Other labs: PT / PTT / INR:15.0/35.5/1.3, CK / CKMB /
   Troponin-T:121/3/<0.01, ALT / AST:104/75, Alk Phos / T Bili:139/0.7,
   Differential-Neuts:67.0 %, Band:5.0 %, Lymph:14.0 %, Mono:7.0 %,
   Eos:6.0 %, Albumin:2.9 g/dL, LDH:450 IU/L, Ca++:7.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Assessment/Plan: Pt. is a 32 year old painter w/PMH of unspecified
   childhood rheumatological diseases who presents with 10 day hx of
   fevers to 102.5, chills, nausea, vomiting, and a frontal headache, all
   of possibly infectious, possibly rheumatologic etiology.
   .
   ## Fevers, lymphadenopathy: Rheumatologic disease unlikely in the
   setting of negative [**Doctor First Name **], ANCA, negative ESR. This still may be an
   infectious process by an atypical bacteria/paracyte snce EBV, CMV
   serologies are negative for acute infection. We are awaiting the
   preliminary [**Doctor First Name 1021**] result for HIV and most of the tick-borne and endemic
   diseases in the area. We also need to cosider granulomatous diseases
   such with the preliminary findings in the skin biopsy.
   -          F/u pending labs and cultures
   -          f/u GI, derm, ID recs
   -          F/u skin biopsy results
   -          Continue antibiotics for now (Vanc/Zosyn/Doxy/Strepto)- Day
   3
   # Hypoxia: Most likely due to primary pulmonary process (as above).
   Will treat underlying cause accordingly ant continue with supplemental
   oxygen for now. Will continue antibiotics as above as well.
   # Transaminitis- Patient has elevated liver enzymes. Trending up. This
   could be due to viral process including hepatitis, hiv, ebv. Could also
   be tick borne disease although babesia and erlichia were negative. No
   new medications and pt was only on trazadone which is not known to
   cause any LFT abnormalities. TSH was normal. Normal abdominal USG;
   negative hepatitis serologies.
   -trend lfts
   .
   # Heartburn: EKG with TWI in v1, 2. 2 sets normal ces. This does not
   sound cardiac in nature. Symptoms sound more consistent with GERD or
   reflux. This could be due to doxycycline and or ibuprofen.
   -famotidine
   .
   # Sinus Tacchycardia: Patient appears volume overloaded with elevated
   JVP but he is likely intravascularly deplete given fevers and poor po
   intake. Per floor team, patient was minimally responsive to IV boluses
   and HR dropped to low 100s after 2 liters last night. TSH normal and no
   PE on exam.
   - cont to monitor
   - hold off on IVF for now and f/u on echo
   .
   # Normocytic Anemia: no evidence of active bleeding. Normal b12 &
   flolate. Iron profile comptabile with chronic disease.
   -guaic stools
   .
   # FEN: HD stable but tacchycardic, replete lytes prn, regular diet
   .
   # PPx: famodtidine, Bowel regimen, HSC
   .
   # Access: PIV
   .
   # Code: Full
   .
   # Emergency Contact: [**Name (NI) 962**] (Brother) [**Numeric Identifier 963**]
   .
   # Dispo: Called out to the floor yestertday; awaiting bed.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-9-17**] 09:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2198-09-19 10:14:00 Physician Attending Progress Note
Chief Complaint: Fever/Rash
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2198-9-19**] 12:30 AM
   temp - 102.4
 SPUTUM CULTURE - At [**2198-9-19**] 12:30 AM
 FEVER - 102.4
F - [**2198-9-19**] 12:00 AM
 CALLED OUT
   patient with biopsy with rare granulomas
   patient ambulating without difficulty or dyspnea on 3 liters O2
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2198-9-18**] 12:00 AM
   Vancomycin - [**2198-9-19**] 07:57 AM
   Piperacillin/Tazobactam (Zosyn) - [**2198-9-19**] 07:57 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2198-9-18**] 01:54 PM
   Heparin Sodium (Prophylaxis) - [**2198-9-19**] 07:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever, headache gone
   Flowsheet Data as of  [**2198-9-19**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.4
   Tcurrent: 36.9
C (98.5
   HR: 88 (81 - 107) bpm
   BP: 122/72(84) {108/40(62) - 128/80(87)} mmHg
   RR: 24 (18 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,096 mL
                                                                    540 mL
   PO:
                                                                  2,240 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    856 mL
                                                                    440 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    700 mL
   Urine:
                                                                  2,575 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    521 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Rash: Persistent
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.7 g/dL
   246 K/uL
   128 mg/dL
   0.8 mg/dL
   29 mEq/L
   3.6 mEq/L
   8 mg/dL
   101 mEq/L
   138 mEq/L
   29.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2198-9-17**]  12:10 PM
                             [**2198-9-18**]  04:42 AM
                             [**2198-9-19**]  12:33 AM
   WBC
   5.5
   5.1
   Hct
   30.5
   29.7
   Plt
   213
   246
   Cr
   0.8
   0.8
   TropT
   <0.01
   Glucose
   94
   128
   Other labs: PT / PTT / INR:15.0/35.5/1.3, CK / CKMB /
   Troponin-T:121/3/<0.01, ALT / AST:104/75, Alk Phos / T Bili:139/0.7,
   Differential-Neuts:67.0 %, Band:5.0 %, Lymph:14.0 %, Mono:7.0 %,
   Eos:6.0 %, Albumin:2.9 g/dL, LDH:450 IU/L, Ca++:7.8 mg/dL, Mg++:1.9
   mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: ABNA/ANCA--negative
   HIV-VL pending
   Imaging: CXR--Much improved lung volumes and minimal evidence of
   consolidation with small residual right lower lobe opacity only.
   Microbiology: No new positive cultures
   Assessment and Plan
   32 yo male admitted with prodrome of fever/rash and significant
   pulmonary consolidations.  He has had extensive serologies without
   clear answer in terms of bacterial infection or connective tissue
   disease being identified.  He has had some significant improvement in
   pulmonary infiltrates and respiratory status on empiric antibiotics.
   1)Fever/Rash-Tularemia negative, EBV, CMV negative as well as testing
   for rheum diseases to date.  Tick borne illnesses also have been tested
   as negative.  This makes final diagnosis still unclear.  In this
   setting he has had clinical improvement and cultures negative.  Of
   concern is that the patient is having persistent fevers.  Persistent
   fevers and rare granulomatous changes on biopsy would still suggest
   continued leading diagnosis may be Tularemia and/or Tick Borne illness.
   -Doxycycline
will continue until RMSFnegative
   -Vanco/Zosyn
no evidence of bacterial infection but suspicion was for
   lung infection given infiltrates but this was in absence of significant
   clinical evidence of pneumonia so woud favor D/C of Vanco/Zosyn at this
   time.
   -Streptomycin
will D/C with Tularemia negative confirmed after
   discussion with ID and clear evidence that a negative test in this
   setting crosses the threshold for considering acute disease not
   present.  At this point favor continued support with Streptomycin and
   follow up testing at a time when titers may be positive.
   ICU Care
   Nutrition: PO Diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-9-17**] 09:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin--ambulation
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 40 minutes